US05807905
2 equivalents (0.08 mol) of t-butyllithium in pentane are added over the course of one hour at 0° C. to a solution of 8 g (0.04 mol) of bromomesitylene in 100 ml of hexane. The mixture is refluxed for 3 hours. After cooling to 0° C., a solution of 4.17 g (0.01 mol) of 1,4-bis(dibromoboryl)benzene in 80 ml of hexan is added to the mixture and the batch is refluxed overnight. The thick suspension produced is poured into 200 ml of water and subjected twice to extraction with 50 ml of hexane. The combined organic phases are dried over magnesium sulphate, filtered and concentrated. A yellow solid is formed which is recrystallized from hexane, giving 3.0 g (52% of theory) of 1,4-bis(dimesitylboryl)benzene.

reactant | t-butyllithium | 0.08 mol, 2 equivalents | C(C)(C)(C)[Li]
reactant | bromomesitylene | 0.04 mol, 8 g | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | 1,4-bis(dibromoboryl)benzene | 0.01 mol, 4.17 g | BrB(C1=CC=C(C=C1)B(Br)Br)Br | C6H4B2Br4
reactant | water | 200 ml | O | H2O
solvent | pentane | CCCCC | C5H12
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | hexan | 80 ml | CCCCCC | C6H14
product | 1,4-bis(dimesitylboryl)benzene | 3.0 g, 52% | C1(=C(C(=CC(=C1)C)C)B(C1=CC=C(C=C1)B(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)C | C42H48B2
